US07405328B2
Reaction between ethyl vinyl ether and trifluoroacetyl chloride to form 4-ethoxy-1,1,1-trifluoro-3-buten-2-one (“ETFBO”) in the absence of an acid-capturing agent and in the presence of a stabilizer for the alkenone that is to be prepared.

reactant | ethyl vinyl ether | C(=C)OCC | C4H8O
reactant | trifluoroacetyl chloride | FC(C(=O)Cl)(F)F | C2ClF3O
product | 4-ethoxy-1,1,1-trifluoro-3-buten-2-one | C(C)OC=CC(C(F)(F)F)=O | C6H7F3O2
